US06610701B2
2-(1,2,4-Triazol-4-yl)cyanobenzene (0.3 g; 1.76 mmol) was combined with 30% by weight of palladium on carbon, 10% catalyst (100 mg) in ethanol (75 ml) and placed on a PARR Hydrogenation apparatus under a hydrogen atmosphere at 55 psi. for 48 hours. The mixture was filtered through celite and concentrated to give 2-(1,2,4-triazol-4-yl)benzylamine; 1H NMR (CD3OD) δ8.77 (s, 2H), 7.69-7.59 (m, 4H), 3.61 (s, 2H).

reactant | 2-(1,2,4-Triazol-4-yl)cyanobenzene | 1.76 mmol, 0.3 g | N=1N=CN(C1)C1=C(C=CC=C1)C#N | C9H6N4
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-(1,2,4-triazol-4-yl)benzylamine | N=1N=CN(C1)C1=C(CN)C=CC=C1 | C9H10N4
